US07566781B2
4-[(E)-2-(6-chloropyridin-3-yl)vinyl]benzenecarboxylic acid
60% sodium hydride (184 mg) was added to a DMF solution (8.4 mL) of 4-(diethoxyphosphorylmethyl)benzenecarboxylic acid (636 mg) produced according to JP-A 11-60537 at 0° C., and stirred for 1 hour, and then a DMF solution (10 mL) of the compound (296 mg) obtained in Production Example T-3 was added thereto at 0° C. and stirred for 5 hours. Water was added to the reaction liquid, its pH was controlled to be 2 with 4 N hydrochloric acid, and the precipitated matter was taken out through filtration to obtain the entitled compound (464 mg) as a yellow solid.

reactant | sodium hydride | 184 mg | [H-].[Na+]
reactant | DMF | 8.4 mL | CN(C)C=O | C3H7NO
reactant | 4-(diethoxyphosphorylmethyl)benzenecarboxylic acid | 636 mg | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)C(=O)O | C12H17O5P
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | Water | O | H2O
product | 4-[(E)-2-(6-chloropyridin-3-yl)vinyl]benzenecarboxylic acid | 464 mg | ClC1=CC=C(C=N1)/C=C/C1=CC=C(C=C1)C(=O)O | C14H10ClNO2
